US05994368
To a suspension of (E)-3-(6-acetylaminopyridin-3-yl)acrylic acid (200 mg) in a mixture of dichloromethane (3 ml) and methanol (3 ml) was added a solution of 10% trimethylsilyldiazomethane (3 ml) at ambient temperature and the mixture was stirred for 3 hours. The reaction mixture was evaporated in vacuo, poured into water and extracted with dichloromethane. The organic layer was washed with water and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was collected by vacuum filtration and washed with diisopropyl ether to give methyl (E)-3-(6-acetylaminopyridin-3-yl)acrylate (197 mg) as a powder.

reactant | (E)-3-(6-acetylaminopyridin-3-yl)acrylic acid | 200 mg | C(C)(=O)NC1=CC=C(C=N1)/C=C/C(=O)O | C10H10N2O3
reactant | trimethylsilyldiazomethane | 3 ml | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | methanol | 3 ml | CO | CH4O
product | methyl (E)-3-(6-acetylaminopyridin-3-yl)acrylate | 197 mg | C(C)(=O)NC1=CC=C(C=N1)/C=C/C(=O)OC | C11H12N2O3
